US04124726
A 3.16 g (0.02 mole) of 2-fluoro benzoic acid chloride was dissolved in 30 ml of carbon disulfide and then, 4.0 g (0.03 mole) of anhydrous aluminum chloride was added to the solution. A 2.68 g (0.02 mole) of n-butyl benzene was further added to the mixture with stirring, and the reaction was carried out at room temperature for 18 hours. In accordance with the process of Example 1, the reaction mixture was treated to obtain 3.2 g of 4-n-butyl-2'-fluorobenzophenone having a boiling point of 180° to 190° C./5 mmHg. (yield of 62.5%).

reactant | 2-fluoro benzoic acid chloride | 0.02 mole, 3.16 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | aluminum chloride | 0.03 mole, 4.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | n-butyl benzene | 0.02 mole, 2.68 g | C(CCC)C1=CC=CC=C1 | C10H14
solvent | carbon disulfide | 30 ml | C(=S)=S | CS2
product | 4-n-butyl-2'-fluorobenzophenone | 3.2 g, yield of 62.5% | C(CCC)C1=CC=C(C(=O)C2=C(C=CC=C2)F)C=C1 | C17H17FO
